US08058299B2
A mixture of 2-chloro-5-nitro-pyridine (3.4 g, 0.021 mol), (S)-(−)-3-amino-pyrrolidine-1-carboxylic acid tert-butyl ester (4 g, 0.021 mol), and potassium carbonate (14.5 g, 0.105 mol) in acetonitrile (50 mL) was heated at reflux for 24 h. The reaction was monitored by LCMS and additional (S)-(−)-3-amino-pyrrolidine-1-carboxylic acid tert-butyl ester was added until the reaction was driven to completion. The reaction mixture was then filtered and concentrated to give (S)-3-(5-nitro-pyridin-2-ylamino)-pyrrolidine-1-carboxylic acid tert-butyl ester (5.1 g, 78.6%) as a yellow solid. LCMS calcd for C14H20N4O4 (m/e) 308, obsd 307.1(M−H).

reactant | 2-chloro-5-nitro-pyridine | 0.021 mol, 3.4 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | (S)-(−)-3-amino-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.021 mol, 4 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)N | C9H18N2O2
reactant | potassium carbonate | 0.105 mol, 14.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | (S)-3-(5-nitro-pyridin-2-ylamino)-pyrrolidine-1-carboxylic acid tert-butyl ester | 5.1 g, 78.6% | C(C)(C)(C)OC(=O)N1C[C@H](CC1)NC1=NC=C(C=C1)[N+](=O)[O-] | C14H20N4O4
